US07317021B2
A2. (3H-imidazo[4,5-b]pyridin-2-yl-methyl)-triphenyl-phosphonium chloride
3.18 g of chloromethyl-3H-imidazo[4,5-b]pyridine (G. Cleve et al., Liebigs Ann. Chem. 1971, 747, 158-171) are suspended in 16 ml of N,N-dimethylformamide and 50 ml of acetonitrile. 4.98 g of triphenylphosphine are added and the mixture is heated to 100° C. for 3 h. The mixture is concentrated to dryness and the crude product purified by chromatography on silica gel (eluent: dichloromethane/methanol 10:1 to 8:1) to afford 3.15 g of the title compound as a beige, amorphous solid. M.p. 302° C. MS: 394.3 (M+). TLC: Rf=0.17-0.50 (dichloromethane/methanol 10:1).

reactant | chloromethyl-3H-imidazo[4,5-b]pyridine | 3.18 g | ClCC1=NC=2C(=NC=CC2)N1 | C7H6ClN3
reactant | triphenylphosphine | 4.98 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | N,N-dimethylformamide | 16 ml | CN(C=O)C | C3H7NO
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | (3H-imidazo[4,5-b]pyridin-2-yl-methyl)-triphenyl-phosphonium chloride | 3.15 g | [Cl-].N1=C(NC2=NC=CC=C21)C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C25H21N3P.ClH/c1-4-11-20(12-5-1)29(21-13-6-2-7-14-21,22-15-8-3-9-16-22)19-24-27-23-17-10-18-26-25(23)28-24;/h1-18H,19H2,(H,26,27,28);1H/q+1;/p-1
